US07863269B2
11e) [3-(1,1-Dimethoxyethyl)-5-pentafluorosulfanylphenyl]dimethylamine
1-(3-Dimethylamino-5-pentafluorosulfanyl phenyl)ethanone (650 mg) was dissolved in methanol (50 ml) and treated with stirring with trimethyl orthoformate (715 mg) and DL-10-camphorsulfonic acid (10 mg). After stirring for 3 h, more orthoformate (200 mg) was added, and the mixture was stirred for 2 h and then allowed to stand overnight. The solvent was then stripped off and the residue was dried in a high vacuum. 730 mg of crude product were obtained, which were reacted directly in the next stage.

reactant | 1-(3-Dimethylamino-5-pentafluorosulfanyl phenyl)ethanone | 650 mg | CN(C=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(C)=O)C | C10H12F5NOS
reactant | trimethyl orthoformate | 715 mg | C(OC)(OC)OC | C4H10O3
reactant | orthoformate | 200 mg | C([O-])([O-])[O-]
solvent | methanol | 50 ml | CO | CH4O
catalyst | DL-10-camphorsulfonic acid | 10 mg | CC1([C@@H]2CC[C@]1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
product | [3-(1,1-Dimethoxyethyl)-5-pentafluorosulfanylphenyl]dimethylamine | 730 mg | COC(C)(OC)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)N(C)C | C12H18F5NO2S
